US05283374
Preparation of 1,1,4-tris(4-hydroxyphenyl)cyclohexane
After heating, the thick paste was diluted with 450 mL toluene, cooled in an ice/water bath and isolated by filtration. It was treated with portions of toluene and methylene chloride until the amount of residual phenol was less than 1 area percent by HPLC analysis. The solid was isolated by filtration and was 90% pure by HPLC analysis, product weight, 57.7 g (76%).

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1,4-tris(4-hydroxyphenyl)cyclohexane | OC1=CC=C(C=C1)C1(CCC(CC1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C24H24O3
